### PR TITLE
Add Erdős Problem 772 (Sidon subsets of sets with bounded representation function), link the formal proof

### LINKED ISSUE #6331: Erdős Problem 772
### What is the Erdős problem?

https://www.erdosproblems.com/772

Let $k\geq 1$ and $H_k(n)$ be the maximal $r$ such that if $A\subset\mathbb{N}$ has $\lvert A\rvert=n$ and $\| 1_A\ast 1_A\|_\infty \leq k$ then $A$ contains a Sidon set of size at least $r$. Is it true that $H_k(n)/n^{1/2}\to \infty$? Or even $H_k(n) > n^{1/2+c}$ for some constant $c>0$?

Status: proved (Alon–Erdős [AlEr85], $H_k(n)\gg_k n^{2/3}$). A formal proof exists in plby/lean-proofs (`Erdos772.erdos_772`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6331.

### What changed
Adds `FormalConjectures/ErdosProblems/772.lean` with `H k n` (the largest `r ≤ n` such that every `n`-set with `‖1_A ∗ 1_A‖_∞ ≤ k` — via the existing `sumRep` — contains a Sidon set of size `≥ r`, using the existing `IsSidon`):
- `erdos_772.parts.i` (`answer(True)`): `H_k(n)/√n → ∞`.
- `erdos_772.parts.ii` (`answer(True)`): `H_k(n) > n^{1/2+c}` eventually, for some `c > 0`.

Both linked to plby/lean-proofs `Erdos772.erdos_772` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- Sorry'd literature variants: Alon–Erdős `H_k(n) ≫_k n^{2/3}` and Erdős' `H_k(n) ≪ n^{2/3}`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos772.erdos_772` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (`sumRep` vs plby's product-filter count, `IsSidon` vs plby's pair-equality form, `sSup` vs `Finset.max'`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real AdditiveCombinatorics Finset

namespace Bridge772

lemma isSidon_iff (S : Finset ℕ) : IsSidon (S : Set ℕ) ↔ Erdos772Plby.IsSidon id S := by
  simp only [IsSidon, Erdos772Plby.IsSidon, Finset.mem_coe, id]
  constructor
  · intro h i hi j hj u hu v hv huv
    rw [← Finset.coe_inj, Finset.coe_pair, Finset.coe_pair, Set.pair_eq_pair_iff]
    exact h i hi u hu j hj v hv huv
  · intro h i hi j hj u hu v hv huv
    have := h i hi u hu j hj v hv huv
    rw [← Finset.coe_inj, Finset.coe_pair, Finset.coe_pair, Set.pair_eq_pair_iff] at this
    exact this

lemma sumRep_eq (A : Finset ℕ) (m : ℕ) :
    sumRep A m = ((A.product A).filter (fun p => p.1 + p.2 = m)).card := by
  classical
  rw [sumRep_def]
  congr 1
  ext p
  simp only [Finset.mem_filter, Finset.product_eq_sprod, Finset.mem_product, Finset.mem_coe]
  rw [Finset.HasAntidiagonal.mem_antidiagonal]
  tauto

lemma mem_guaranteedSizes (k n r : ℕ) :
    r ∈ Erdos772Plby.guaranteedSizes k n ↔ r ≤ n ∧ Erdos772Plby.Guarantees k n r := by
  rw [Erdos772Plby.guaranteedSizes]
  simp only [Finset.mem_filter, Finset.mem_range, Nat.lt_succ_iff]

lemma mem_iff (k n r : ℕ) :
    r ∈ {r | r ≤ n ∧ ∀ A : Finset ℕ, A.card = n → (∀ m, sumRep A m ≤ k) →
      ∃ S ⊆ A, IsSidon (S : Set ℕ) ∧ r ≤ S.card} ↔ r ∈ Erdos772Plby.guaranteedSizes k n := by
  rw [mem_guaranteedSizes]
  simp only [Set.mem_ofPred_eq, Erdos772Plby.Guarantees, sumRep_eq, isSidon_iff]

lemma H_eq (k n : ℕ) : Erdos772.H k n = Erdos772Plby.H k n := by
  unfold Erdos772.H Erdos772Plby.H
  have h0 : (0 : ℕ) ∈ Erdos772Plby.guaranteedSizes k n := by
    rw [mem_guaranteedSizes]
    exact ⟨by simp, fun A _ _ => ⟨∅, by simp, by simp [Erdos772Plby.IsSidon], by simp⟩⟩
  apply le_antisymm
  · exact csSup_le ⟨0, (mem_iff k n 0).2 h0⟩ fun r hr =>
      Finset.le_max' _ _ ((mem_iff k n r).1 hr)
  · exact le_csSup ⟨n, fun r hr => hr.1⟩ ((mem_iff k n _).2 (Finset.max'_mem _ _))

theorem parts_i : type_of% Erdos772.erdos_772.parts.i := by
  show True ↔ _
  simp only [true_iff, H_eq]
  intro k hk
  have := (Erdos772Plby.erdos_772 k hk).1
  simpa [Real.sqrt_eq_rpow] using this

theorem parts_ii : type_of% Erdos772.erdos_772.parts.ii := by
  show True ↔ _
  simp only [true_iff, H_eq]
  intro k hk
  exact (Erdos772Plby.erdos_772 k hk).2

#print axioms Erdos772Plby.erdos_772
#print axioms parts_i
#print axioms parts_ii

end Bridge772
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«772»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/772.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/772.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks
